US05254571
3-Cyano-4-methyl-6-(2-propoxyphenyl)-2(1H)-pyridinone
In a similar manner to that of Example 1, 2-propoxyacetophenone (8.9 g) was allowed to react with ethyl acetate in the presence of sodium methoxide, and the intermediate was cyclised with cyanoacetamide to give the title compound, 0.2 g, m.p. 180°-180.5° C. (from acetonitrile).

reactant | 2-propoxyacetophenone | 8.9 g | C(CC)OCC(=O)C1=CC=CC=C1 | C11H14O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium methoxide | C[O-].[Na+]
reactant | cyanoacetamide | C(#N)CC(=O)N | C3H4N2O
reactant | acetonitrile | C(C)#N | C2H3N
product | 3-Cyano-4-methyl-6-(2-propoxyphenyl)-2(1H)-pyridinone | C(#N)C=1C(NC(=CC1C)C1=C(C=CC=C1)OCCC)=O | C16H16N2O2
